US09388189B2
a) 3-Hydroxy-5-(methylsulfonamido)phenyl 4,6-dichloropyrimidine-5-carboxylate
N-(3,5-Dihydroxyphenyl)methanesulfonamide (260 mg, 1.28 mmol) was dissolved in tetrahydrofuran (5 ml) and triethylamine (214 μl, 1.52 mmol) was added. Then a solution of 4,6-dichloropyrimidine-5-carbonyl chloride (298 mg, 1.40 mmol, prepared according to E. V. Tarasov et al. Synlett 2000, 5, 625-626) was dropwise added. The reaction mixture was stirred at room temperature over 48 hours. The reaction mixture was then diluted with dichloromethane, washed with 4% sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated. The product was purified by reverse phase using SP1® Purification System to give 280 mg (18% yield) of the title compound. Purity 100%.

reactant | N-(3,5-Dihydroxyphenyl)methanesulfonamide | 1.28 mmol, 260 mg | OC=1C=C(C=C(C1)O)NS(=O)(=O)C | C7H9NO4S
reactant | triethylamine | 1.52 mmol, 214 μl | C(C)N(CC)CC | C6H15N
reactant | 4,6-dichloropyrimidine-5-carbonyl chloride | 1.40 mmol, 298 mg | ClC1=NC=NC(=C1C(=O)Cl)Cl | C5HCl3N2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Hydroxy-5-(methylsulfonamido)phenyl 4,6-dichloropyrimidine-5-carboxylate | 280 mg, 18% yield | ClC1=NC=NC(=C1C(=O)OC1=CC(=CC(=C1)NS(=O)(=O)C)O)Cl | C12H9Cl2N3O5S
